* H:\GitHub\sensornet\turn on delay.asc
V1 N002 0 12
R1 N002 N005 105k
R2 N005 0 10k
XU1 N005 N003 N002 0 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 N002 0 500
C1 N001 0 50µ
R4 N001 N002 10k
R5 N004 N002 180
R6 N003 N006 50k
R7 N003 N001 1k
R8 N007 0 1k
R9 N007 N006 100
M1 N004 N007 0 0 IRF6201
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 0.5s 0 0.001s startup
.lib UniversalOpamps2.sub
.backanno
.end
